US08106090B2
[(1R,2S)-1-Benzyl-3-(benzyl-methyl-amino)-2-hydroxy-propyl]-carbamic acid tert-butyl ester
Using general procedure 1 and purification method D with [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester (0.255 g, 0.97 mmol) and N-methyl-benzylamine (0.25 mL, 1.9 mmol) gives the title compound.

reactant | [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester | 0.97 mmol, 0.255 g | C(C)(C)(C)OC(N[C@H](CC1=CC=CC=C1)[C@H]1OC1)=O | C15H21NO3
reactant | N-methyl-benzylamine | 1.9 mmol, 0.25 mL | CNCC1=CC=CC=C1 | C8H11N
product | [(1R,2S)-1-Benzyl-3-(benzyl-methyl-amino)-2-hydroxy-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CN(C)CC1=CC=CC=C1)O)CC1=CC=CC=C1)=O | C23H32N2O3
